US07253286B2
N1-Cyclopropyl-5-{[2-(acetylamino)-4-pyridyl]oxy}-1H-1-indolecarboxamide (Example 213-C)
N1-Cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide (830 mg), succinic anhydride (270 mg) and toluene (30ml) were refluxed together for 30 minutes. After adding 50 ml of acetic anhydride and 82 mg of sodium acetate to the reaction solution, the mixture was stirred at 80° C. for 15 minutes. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate). The second eluted substance was N1-cyclopropyl-5-{[2-(2,5-dioxotetrahydro-1H-1-pyrrolyl)-4-pyridyl]oxy}-1H-1-indolecarboxamide, of which 440 mg was obtained as a colorless powder.

reactant | N1-Cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide | 830 mg | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C17H16N4O2
reactant | succinic anhydride | 270 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 82 mg | C(C)(=O)[O-].[Na+]
solvent | toluene | 30ml | C1(=CC=CC=C1)C | C7H8
product | N1-Cyclopropyl-5-{[2-(acetylamino)-4-pyridyl]oxy}-1H-1-indolecarboxamide | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(C)=O | C19H18N4O3
